US05981533
Under a N2 atmosphere, 550 mg (3.8 mmol) of tetracyanoethylene oxide (Fluka, Buchs/Switzerland) are added to 500 mg (2.34 mmol) of 3-nitro-dithiobenzoic acid methyl ester in 4 ml of toluene and the reaction mixture is then heated at 50° C. for 10 hours. 5 g of silica gel are added to the reaction mixture, which is then concentrated by evaporation. Application of the residue to a silica gel column, elution with hexane/ethyl acetate [1:2], treatment with activated carbon, concentration by evaporation and crystallization from diethyl ether (-70° C.) yield 3-(3-nitrophenyl)-3-methylmercapto-2-cyano-acrylonitrile; MS: (M)+ =245, (M-SMe)+ =198, (M-NO2 -Me)+ =184; IR: (KBr) 2222s, 1531s, 1514s, 1353s.

reactant | tetracyanoethylene oxide | 3.8 mmol, 550 mg | C(#N)C1(C(C#N)(C#N)O1)C#N | C6N4O
reactant | 3-nitro-dithiobenzoic acid methyl ester | 2.34 mmol, 500 mg | CSC(C1=CC(=CC=C1)[N+](=O)[O-])=S | C8H7NO2S2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3-nitrophenyl)-3-methylmercapto-2-cyano-acrylonitrile | [N+](=O)([O-])C=1C=C(C=CC1)C(=C(C#N)C#N)SC | C11H7N3O2S
